US08404723B2
2-Methyl-4,5,6,7-tetrahydro-1,3-benzothiazole
5.00 g (37.7 mmol) of 2-chlorocyclohexanone and 2.83 g (37.7 mmol) of thioacetamide are heated in 25 ml of ethanol at the reflux temperature overnight. After cooling, the volatile components are removed in a rotary evaporator, and the remaining residue is taken up in 2 N sodium carbonate solution. It is extracted three times with dichloromethane, and the combined organic phases are dried with magnesium sulfate. The solvent is removed in a rotary evaporator, and the residue is then purified by column chromatography (silica gel, mobile phase: cyclohexane/ethyl acetate 7:3). 3.35 g (58% of theory) of the title compound are obtained.

reactant | 2-chlorocyclohexanone | 37.7 mmol, 5.00 g | ClC1C(CCCC1)=O | C6H9ClO
reactant | thioacetamide | 37.7 mmol, 2.83 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-Methyl-4,5,6,7-tetrahydro-1,3-benzothiazole | CC=1SC2=C(N1)CCCC2 | C8H11NS
